US07524852B2
Synthesis of 4-methyl-2-piperazin-1-ylmethylmorpholine for use in the syntheses of Compounds 15-36 to 15-56, 15-58, 15-59, 15-61, 16-5 through 16-10 and 22-1 to 22-4
Tert-butyl 4-(4-methylmorpholin-2-ylmethyl)piperazine-1-carboxylate (5.00 g, 17.0 mmol) prepared according to Process Step 2 was dissolved in dichloromethane (60 mL), and the solution was mixed with trifluoroacetic acid (20 mL) added dropwise under ice-cooling. After stirring at room temperature for one hour, the solvent was distilled off under reduced pressure. The resulting yellow oil was dissolved in dioxane (100 mL), and the solution was mixed with triethylamine (20 mL) to thereby yield 4-methyl-2-piperazin-1-ylmethylmorpholine.

reactant | Tert-butyl 4-(4-methylmorpholin-2-ylmethyl)piperazine-1-carboxylate | 17.0 mmol, 5.00 g | CN1CC(OCC1)CN1CCN(CC1)C(=O)OC(C)(C)C | C15H29N3O3
reactant | trifluoroacetic acid | 20 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-methyl-2-piperazin-1-ylmethylmorpholine | CN1CC(OCC1)CN1CCNCC1 | C10H21N3O
